US08003785B2
To a mixture of 0.0651 g (0.141 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethoxy-benzoic acid (I-214) and 4 mL of dimethylformamide was added 0.0309 g (0.229 mmole) of 1-hydroxybenzotriazole, 0.0825 g (0.229 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 0.1113 g (0.862 mmole) of diisopropylethylamine. The mixture was stirred for 10 minutes, then 0.0213 g (0.211 mmole) of 4-aminotetrahydropyran was added. The reaction mixture was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 80 mL of ethyl acetate and washed three times with 10 mL of 1M sodium hydroxide, twice with 15 mL of brine, dried, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-80:20) gave 0.0631 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethoxy-N-(tetrahydro-pyran-4-yl)-benzamide (I-217).

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethoxy-benzoic acid | 0.141 mmole, 0.0651 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OCC | C22H25F2N5O4
reactant | 1-hydroxybenzotriazole | 0.229 mmole, 0.0309 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.229 mmole, 0.0825 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.862 mmole, 0.1113 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-aminotetrahydropyran | 0.211 mmole, 0.0213 g | NC1CCOCC1 | C5H11NO
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-ethoxy-N-(tetrahydro-pyran-4-yl)-benzamide | 0.0631 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCOCC1)C=C2)OCC | C27H34F2N6O4
